US07192950B2
2-[5-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-N-indan-2-yl-acetamide
prepared by reaction of 2-bromoacetyl bromide with 2-aminoindane hydrochloride and 5-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine.

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-aminoindane hydrochloride | Cl.NC1CC2=CC=CC=C2C1
reactant | 5-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2,3,4,5-tetrahydro-benzo[f][1,4]oxazepine | COC=1C=C(CC2NCCOC3=C2C=C(C(=C3)OC)OC)C=CC1OC | C20H25NO5
product | 2-[5-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-N-indan-2-yl-acetamide | COC=1C=C(CC2N(CCOC3=C2C=C(C(=C3)OC)OC)CC(=O)NC3CC2=CC=CC=C2C3)C=CC1OC | C31H36N2O6
